US08217032B2
1-(2-{4-[2-(2,6-Difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine
Dissolve trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-yl ester (1.0 gm., 1.9 mmoles) in 20 ml DMF. To this solution add 2,6-difluorophenylboronic acid (0.6 gm., 3.8 mmoles), potassium phosphate (2.42 gm., 11.4 mmoles) and tetrakis(triphenylphosphine)palladium (0) (0.44 gm., 0.38 mmoles) and heat to 100° C. for 18 hours. Cool and filter the mixture and purify on an SCX column, eluting the impurities with methanol, then eluting the product with 2N ammonia/methanol. Purify further on a silica gel column eluting with a gradient of 50-100% methylene chloride/hexane containing 1% isopropyl amine to give 300 mg (32%) of the title compound.

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-yl ester | 1.9 mmoles, 1.0 gm | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C25H26F3NO6S
reactant | 2,6-difluorophenylboronic acid | 3.8 mmoles, 0.6 gm | FC1=C(C(=CC=C1)F)B(O)O | C6H5BF2O2
reactant | potassium phosphate | 11.4 mmoles, 2.42 gm | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.38 mmoles, 0.44 gm | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-{4-[2-(2,6-Difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine | 300 mg, 32% | FC1=C(C(=CC=C1)F)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | C30H29F2NO3
